US06303790B1
7.0 ml (14.1 mMol) iso-Propylmagnesium chloride solution (2M in THF) were added over 5 minutes to a solution of 1.0 g (4.7 mMol) N-tert.-butyl-6-chloro-nicotinamide in 5.0 ml THF cooled to 0° C. and the reaction mixture was stirred 18 hours at room temperature. After cooling to 0° C., 1.14 ml (28.2 mMol) methanol were added over 10 minutes, followed, after 15 minutes, by 1.17 g (5.2 mMol) 2,3-dichloro-5,6-dicyano-1,4-benzoquinone. After stirring 30 minutes at room temperature, the red-brown solution was concentrated under reduced pressure to about 10 g, heated to 50° C. and 20 ml tert.-butyl-methylether were added. The resulting suspension was stirred 1 hour at 55° C., then 1 hour at room temperature and filtered. The filtrate was concentrated under reduced pressure and digested in 9 ml n-hexane/ethyl acetate 4:1 to yield 0.67 g (56%) N-tert.-butyl-6-chloro-4-(prop-2-yl)-nicotinamide as a beige powder of m.p.=130-140° C. (dec.)

reactant | iso-Propylmagnesium chloride | 14.1 mMol, 2M, 7.0 ml | C(C)(C)[Mg]Cl
reactant | N-tert.-butyl-6-chloro-nicotinamide | 4.7 mMol, 1.0 g | C(C)(C)(C)NC(C1=CN=C(C=C1)Cl)=O | C10H13ClN2O
reactant | methanol | 28.2 mMol, 1.14 ml | CO | CH4O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 5.2 mMol, 1.17 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | N-tert.-butyl-6-chloro-4-(prop-2-yl)-nicotinamide | 0.67 g, 56% | C(C)(C)(C)NC(C1=CN=C(C=C1C(C)C)Cl)=O | C13H19ClN2O
